US07592457B2
6,8-dibromo-3-(4-methoxy-3-nitro-phenyl)-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 3,5-dibromo-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester (0.65 g, 1.26 mmol) and LiHMDS (3.78 mmol, 1M solution in THF). After normal workup, the objective compound (160 mg, 27%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=2:1): 1H NMR (200 MHz, DMSO-d6) δ 1.68 (s, 3H, CH3), 3.87 (s, 3H, OCH3), 7.32 (d, J=9.0 Hz, 1H, ArH), 7.43 (dd, J=8.8, 2.4 Hz, 1H, ArH), 7.69 (d, J=2.4 Hz, 1H, ArH), 7.84 (d, J=2.6 Hz, 1H, ArH), 8.12 (d, J=2.6 Hz, 1H, ArH); MS(EI) m/e 482 [M+], 277, 207, 102 ; HRMS m/e cacld. for C17H12N2O5Br2 481.9113, found 481.9122.

reactant | 3,5-dibromo-2-[2-(4-methoxy-3-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 1.26 mmol, 0.65 g | COC(C1=C(C(=CC(=C1)Br)Br)NC(C(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O)=O | C18H16Br2N2O6
reactant | LiHMDS | 3.78 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6,8-dibromo-3-(4-methoxy-3-nitro-phenyl)-3-methyl-1H-quinoline-2,4-dione | 160 mg, 27% | BrC=1C=C2C(C(C(NC2=C(C1)Br)=O)(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C17H12Br2N2O5
